US08580146B2
3-(4-Ethoxy-2,3-difluorophenyl)bromopropane (s22) (11.5 g), toluene (100 ml) and triphenylphosphine (21.6 g) were placed in a reaction vessel under an atmosphere of nitrogen, and the mixture was heated to reflux for 5 hours. After the reaction mixture had been cooled to 25° C., the deposits were filtered, and the unreacted material was removed by washing with toluene three times. The resulting colorless solids were dried to give 3-(4-ethoxy-2,3-difluorophenyl)propyltriphenylphosphonium bromide (s23) (17.6 g). The yield based on the compound (s22) was 78.9%.

reactant | 3-(4-Ethoxy-2,3-difluorophenyl)bromopropane | 11.5 g | C(C)OC1=C(C(=C(C=C1)CCCBr)F)F | C11H13BrF2O
reactant | triphenylphosphine | 21.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-ethoxy-2,3-difluorophenyl)propyltriphenylphosphonium bromide | 17.6 g | [Br-].C(C)OC1=C(C(=C(C=C1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)F)F | InChI=1S/C29H28F2OP.BrH/c1-2-32-27-21-20-23(28(30)29(27)31)13-12-22-33(24-14-6-3-7-15-24,25-16-8-4-9-17-25)26-18-10-5-11-19-26;/h3-11,14-21H,2,12-13,22H2,1H3;1H/q+1;/p-1
